US08859773B2
Step 3: ethyl 2-(methylamino)quinoline-6-carboxylate
Trifluoromethanesulfonic anhydride (1.92 mL, 11.4 mmol) was added dropwise to a −70° C. solution of 6-(ethoxycarbonyl)quinoline 1-oxide (2.25 g, 10.4 mmol) in dichloromethane (150 mL). The mixture was stirred at −70° C. for 5 minutes. Then a solution of methylamine in tetrahydrofuran (31 mL, 62 mmol, 2 M) was added dropwise. The mixture was stirred at −70° C. for 5 minutes. The reaction was quenched with water (20 mL). The layers were separated and the aqueous was extracted with dichloromethane (3×30 mL). The combined organics were washed with brine, dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography gave the title compound (850 mg, 35%) as a yellow solid. 1H NMR (400 MHz, CDCl3, δ): 8.33 (d, 1H), 8.16-8.13 (m, 1H), 7.90-7.87 (d, 1H), 7.70-7.67 (d, 1H), 6.68 (d, 1H), 5.30 (br. s., 1H), 4.43-4.38 (q, 2H), 3.13-3.12 (d, 3H), 1.44-1.40 (m, 3H).

reactant | Trifluoromethanesulfonic anhydride | 11.4 mmol, 1.92 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 6-(ethoxycarbonyl)quinoline 1-oxide | 10.4 mmol, 2.25 g | C(C)OC(=O)C=1C=C2C=CC=[N+](C2=CC1)[O-] | C12H11NO3
reactant | methylamine | CN | CH5N
reactant | tetrahydrofuran | 62 mmol, 2 M, 31 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | ethyl 2-(methylamino)quinoline-6-carboxylate | 850 mg, 35% | CNC1=NC2=CC=C(C=C2C=C1)C(=O)OCC | C13H14N2O2
